US04125729
Methyl α-(α,α,α-trifluoro-p-tolyloxy)-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 4.08 g of α,α,α-trifluoro-p-cresol, 1.19 g of sodium methoxide and 50 mg of potassium iodide in 40 ml of methanol is added 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene. The mixture is refluxed overnight and then poured into 100 ml of water. The mixture is then extracted with 2 × 75 ml of ether. The combined extracts are washed with 2 × 50 ml of 5% NaOH, 50 ml of water, 50 ml of saturated brine and dried (MgSO4). Evaporation of the solvent yields a yellow oil. Chromatography on 100 g of silica gel (benzene, 400 ml) affords the product as a colorles oil.

reactant | α,α,α-trifluoro-p-cresol | 4.08 g | FC(C=1C=CC(=CC1)O)(F)F | C7H5F3O
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | Methyl α-(α,α,α-trifluoro-p-tolyloxy)-α-[p-(p-chlorophenoxy)phenyl]acetate | FC(C1=CC=C(C=C1)OC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)(F)F | C22H16ClF3O4
